US07737166B2
7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-2-(1-methyl-1H-pyrrol-2-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile (#73)
(3S)-3-(Dimethylamino)pyrrolidine (53 μl, 0.42 mmol) and triethylamine (100 μl) were added to a dimethyl sulfoxide (2 ml) solution of 7-fluoro-5-methyl-2-(1-methyl-1H-pyrrol-2-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-166) (69 mg, 0.21 mmol). The system was purged with nitrogen, then sealed up, and heated at 110° C. for 3.5 hours. After cooling, the solvent was evaporated away under reduced pressure, the resulting residue was dissolved in chloroform and washed with water. The organic layer was dried over anhydrous sodium sulfate, then the solvent was evaporated away under reduced pressure, and the resulting residue was separated and purified by preparative TLC to obtain a main product. This was washed with a mixed solvent of isopropyl ether and ethanol, and the solid was collected by filtration to obtain the entitled compound (24 mg, 27%) as a colorless solid.

reactant | (3S)-3-(Dimethylamino)pyrrolidine | 0.42 mmol, 53 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | triethylamine | 100 μl | C(C)N(CC)CC | C6H15N
reactant | 7-fluoro-5-methyl-2-(1-methyl-1H-pyrrol-2-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile | 0.21 mmol, 69 mg | FC=1C(=C(C(=C2N=C(OC21)C=2N(C=CC2)C)C#N)C)C2=CC=CC=C2 | C20H14FN3O
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 7-[(3S)-3-(Dimethylamino)pyrrolidin-1-yl]-5-methyl-2-(1-methyl-1H-pyrrol-2-yl)-6-phenyl-1,3-benzoxazole-4-carbonitrile | 24 mg, 27% | CN([C@@H]1CN(CC1)C=1C(=C(C(=C2N=C(OC21)C=2N(C=CC2)C)C#N)C)C2=CC=CC=C2)C | C26H27N5O
